US05919753
(b) Cesium benzyl azelate
Aqueous cesium carbonate (1M, 6.3 ml) is added dropwise to a solution of benzyl hydrogen azelate (3.00 g, 10.77 mmol) in 75 ml water/methanol (1:15) until the pH reaches approximately 7, whereupon the solvent is removed under reduced pressure and the residue dried under vacuum overnight. The oily, yellowish semicrystalline residue is dispersed in dry dimethylformamide (50 ml) and evaporated to dryness in vacuo. This procedure is repeated twice, yielding an off-white crystalline product. The product is used without further characterization.

reactant | cesium carbonate | 1M, 6.3 ml | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl hydrogen azelate | 10.77 mmol, 3.00 g | C(CCCCCCCC(=O)O)(=O)OCC1=CC=CC=C1 | C16H22O4
solvent | water methanol | 75 ml | O.CO
product | Cesium benzyl azelate | C(CCCCCCCC(=O)[O-])(=O)OCC1=CC=CC=C1.[Cs+] | InChI=1S/C16H22O4.Cs/c17-15(18)11-7-2-1-3-8-12-16(19)20-13-14-9-5-4-6-10-14;/h4-6,9-10H,1-3,7-8,11-13H2,(H,17,18);/q;+1/p-1
